US08957205B2
1-[[[4-(4-Propylpiperazin-1-yl)phenyl]carbonyl]amino]cyclohexanecarboxylic acid methyl ester hydrochloride
1 ml of 4N hydrochloric acid/ethyl acetate solution was added to a solution of 120 mg (0.31 mmol) of 1-[[[4-(4-propylpiperazin-1-yl)phenyl]carbonyl]amino]cyclohexanecarboxylic acid methyl ester in 10 ml of ethyl acetate, and the mixture was stirred at room temperature for 30 minutes. The precipitated crystal was collected by filtration to obtain 87 mg (66%) of the title compound.

reactant | hydrochloric acid ethyl acetate | 4N, 1 ml | Cl.C(C)(=O)OCC
reactant | 1-[[[4-(4-propylpiperazin-1-yl)phenyl]carbonyl]amino]cyclohexanecarboxylic acid methyl ester | 0.31 mmol, 120 mg | COC(=O)C1(CCCCC1)NC(=O)C1=CC=C(C=C1)N1CCN(CC1)CCC | C22H33N3O3
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 1-[[[4-(4-Propylpiperazin-1-yl)phenyl]carbonyl]amino]cyclohexanecarboxylic acid methyl ester hydrochloride | 87 mg, 66% | Cl.COC(=O)C1(CCCCC1)NC(=O)C1=CC=C(C=C1)N1CCN(CC1)CCC | InChI=1S/C22H33N3O3.ClH/c1-3-13-24-14-16-25(17-15-24)19-9-7-18(8-10-19)20(26)23-22(21(27)28-2)11-5-4-6-12-22;/h7-10H,3-6,11-17H2,1-2H3,(H,23,26);1H
